US09428510B2
224 mg of m-CPBA is added at 0° c. to a solution in acetonitrile of 250 mg of 5-(3,5-difluorobenzyloxy)nicotinonitrile. The reaction medium is stirred for 20 hours while a precipitate is formed progressively. this solid is then filtered and washed to yield 200 mg (75%) of 3-cyano-5-(3,5-difluorobenzyloxyl)pyridine 1-oxide in the form of a white powder.

reactant | m-CPBA | 224 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 5-(3,5-difluorobenzyloxy)nicotinonitrile | 250 mg | FC=1C=C(COC=2C=NC=C(C#N)C2)C=C(C1)F | C13H8F2N2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-cyano-5-(3,5-difluorobenzyloxyl)pyridine 1-oxide | 200 mg, 75% | C(#N)C=1C=[N+](C=C(C1)OCC1=CC(=CC(=C1)F)F)[O-] | C13H8F2N2O2
